US05721234
Thiophene-2-carboxylic acid (6-nitro-2,3-dioxo-2,3,4,7,8,9-hexahydro-1H-cyclopenta[f]quinoxaline-8-yl)-amide
A solution of thiophene-2-carboxylic acid (1 mmol) in anhydrous tetrahydrofuran (THF) was treated with carbonyldiimidazole (1.2 mmol) and triethyl amine (1 mL) and heated at 60° C. for 30 min. After cooling to room temperature a solution of 8-amino-6-nitro-4,7,8,9,-tetrahydro-1H-cyclopenta[f]quinoxaline-2,3-dione (1 mmol) in dimethylformamide (DMF) was added. The reaction mixture as stirred at room temperature for 2 h, then heated at 70° C. for 2 h. The solvent was evaporated and the residue triturated with acetone. The solid was collected by filtration, washed with diethyl ether and dried in vacuo. Calc'd for C16H12N4O5S.H2O: C, 49.22; H, 3.61; N, 14.35, found: C, 49.06; H, 312; N, 15.05. MS M+1 (373).

reactant | thiophene-2-carboxylic acid | 1 mmol | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | carbonyldiimidazole | 1.2 mmol | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | triethyl amine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | 8-amino-6-nitro-4,7,8,9,-tetrahydro-1H-cyclopenta[f]quinoxaline-2,3-dione | 1 mmol | NC1CC2=C(C=3NC(C(NC3C=C2[N+](=O)[O-])=O)=O)C1 | C11H10N4O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Thiophene-2-carboxylic acid (6-nitro-2,3-dioxo-2,3,4,7,8,9-hexahydro-1H-cyclopenta[f]quinoxaline-8-yl)-amide | [N+](=O)([O-])C=1C2=C(C=3NC(C(NC3C1)=O)=O)CC(C2)NC(=O)C=2SC=CC2 | C16H12N4O5S
